US07429665B2
6-Fluoro-2-[4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline hydrogen chloride
Following the procedure for the preparation of 7-Chloro-2-[4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline hydrogen chloride but substituting 2-chloromethyl-6-fluoro-quinoline provided the title compound. 1H NMR (400 MHz, DMSO) δ 8.67 (d, J=6.6 Hz, 2H), 8.55 (s, 1 H), 8.42 (d, J=8.3, 1H), 8.04 (m, 1H), 7.82 (m, 1H), 7.71 (m, 4H), 7.36 (d, J=8.7 Hz, 2H), 7.12 (d, J=8.7, 2H), 5.37 (s, 2H), 3.91 (s, 3 H); MS: (M+H m/z=411.2).

reactant | 7-Chloro-2-[4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline hydrogen chloride | Cl.ClC1=CC=C2C=CC(=NC2=C1)COC1=CC=C(C=C1)C1=NN(C=C1C1=CC=NC=C1)C
reactant | 2-chloromethyl-6-fluoro-quinoline | ClCC1=NC2=CC=C(C=C2C=C1)F | C10H7ClFN
product | 6-Fluoro-2-[4-(1-methyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline hydrogen chloride | Cl.FC=1C=C2C=CC(=NC2=CC1)COC1=CC=C(C=C1)C1=NN(C=C1C1=CC=NC=C1)C | InChI=1S/C25H19FN4O.ClH/c1-30-15-23(17-10-12-27-13-11-17)25(29-30)18-3-7-22(8-4-18)31-16-21-6-2-19-14-20(26)5-9-24(19)28-21;/h2-15H,16H2,1H3;1H
